US07943622B2
Step 2. Synthesis of phenyl(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(benzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (89.5 mg, 0.175 mmol). After 12 h, the reaction mixture was concentrated under reduced pressure, yielding 63.8 mg (98%) of the desired product as a white solid. LC-MS: RT=3.05 min, [M+H]+=298.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(benzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.175 mmol, 89.5 mg | OC(=O)C(F)(F)F.C(C1=CC=CC=C1)(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
product | phenyl(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 63.8 mg, 98% | Cl.Cl.C1(=CC=CC=C1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C17H19N3O2.2ClH/c21-17(14-5-2-1-3-6-14)20-10-9-19-11-15(20)13-22-16-7-4-8-18-12-16;;/h1-8,12,15,19H,9-11,13H2;2*1H
